2132-05-25 15:53:00 Physician Attending Progress Note
Chief Complaint: fall - multiple pelvic/hip fractures
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86W recent admission for diarrhea/dehydration from [**5-12**] - [**5-24**].
   Complicated by DVT/PE. Discharged yesterday to rehab on 2 L NC - fell
   yesterday and fractured hip. No head trauma.
   In ER 93% 5 L NC. EKG showed new ST/T changes in V1-2. Head and neck CT
   unremarkable. Hip films showed left pubic fracture, right sacral and
   hip fracture.
   24 Hour Events:
   HTN
   DVT [**5-19**]  started on IV heparin
   PE [**5-21**]
   TIA's
   dementia
   osteoporosis
   aortic insufficiency
   History obtained from housestaff
   Patient unable to provide history: poor historian
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2132-5-25**] 10:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Musculoskeletal: back and hip pain
   Flowsheet Data as of  [**2132-5-25**] 03:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 78 (70 - 97) bpm
   BP: 129/103(108) {100/51(65) - 157/108(113)} mmHg
   RR: 16 (6 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
           338 mL
   PO:
           60 mL
   TF:
   IVF:
   118 mL
   Blood products:
   160 mL
   Total out:
                                                                      0 mL
                                                                    110 mL
   Urine:
   110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    228 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 99%
   ABG: ////
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: 2+, Left: 2+, edema
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x 3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   458
   1
   19
   4.2
   19
   110
   141
   27
   13
        [image002.jpg]
   Other labs: PT / PTT / INR:18.0/86.6/1.6, CK / CKMB /
   Troponin-T:17//0.09
   Fluid analysis / Other labs: UA negative
   Imaging: head CT negative other than left mastoid opacification
   CT c-spine no fracture
   cxr ? small left effusion
   Assessment and Plan
 HIP FRACTURE, pelvic and sacral fractures
 pain control with prn
   morphine, will explore possibility of epidural, to go for ORIF
   tomorrow, hold anticoagulation tonight
   Anemia
 being transfused in anticipation of blood loss related to
   trauma
   Hypoxemia
 chest x-ray does not offer an explanation, concerned about
   trauma related fat embolism, continue supportive care
 PULMONARY EMBOLISM (PE), ACUTE
 will resume anticoagulation once
   able to post-op
   EKG changes
 will follow, troponin stable, started on lopressor
   ICU Care
   Nutrition:  NPO
   Glycemic Control:
   Lines:
   Midline - [**2132-5-25**] 10:16 AM
   18 Gauge - [**2132-5-25**] 10:40 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2132-05-26 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2132-5-25**] 10:16 AM
 NASAL SWAB - At [**2132-5-25**] 10:30 AM
   MRSA screening
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2132-5-25**] 10:40 AM
   Heparin Sodium - [**2132-5-25**] 05:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-5-26**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 73 (49 - 97) bpm
   BP: 152/76(94) {100/48(62) - 167/108(113)} mmHg
   RR: 9 (6 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,842 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
                                                                    972 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    285 mL
                                                                    140 mL
   Urine:
                                                                    285 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,557 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   GEN:
   HEENT:
   NECK:
   PULM:
   CARD:
   ABD:
   EXT:
   NEURO:
   Labs / Radiology
   318 K/uL
   10.7 g/dL
   78 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.0 mEq/L
   19 mg/dL
   110 mEq/L
   139 mEq/L
   30.0 %
   16.0 K/uL
        [image002.jpg]
                             [**2132-5-25**]  04:40 PM
                             [**2132-5-25**]  11:53 PM
                             [**2132-5-26**]  05:24 AM
   WBC
   14.0
   16.0
   Hct
   31.5
   30.9
   30.0
   Plt
   303
   318
   Cr
   1.2
   1.0
   1.0
   TropT
   0.14
   0.17
   0.20
   Glucose
   107
   80
   78
   Other labs: PT / PTT / INR:21.2/33.4/2.0, CK / CKMB /
   Troponin-T:52//0.20, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   86 yo F with HTN, osteoporosis, recent DVT/PE (diagnosed 6 days ago),
   admit with multiple fractures following fall at rehab with increased
   oxygen requirement.
   #  Hypoxia:  Patient has known recent acute PE, discharged on 2 L NC.
   Reason for acute worsening unclear - differential includes worsening
   pulmonary clot burden (thrombotic or fat embolus; IVC filter in place
   and therapeutic on heparin); volume overload (not supported by CXR;
   infection (no pneumonia on current film), ACS (mild elevation in
   troponins, though stable), hypoventilation from pain or narcotics.
   - Cycle enzymes and serial ECGs.
   - NRB vs. NC support.
   - Minimize narcotics if at all possible.
   - ABG prn, may have respiratory acidosis as well if hypoventilating.
   - Consideration on intubation pre-op if worsening (patient DNR/DNI in
   past, but family okay with intubation if respiratory decompensation
   prior to OR).
   - Continue heparin gtt until MN, then stop.  Restart post-op with
   eventual restart of coumadin as well.
   - Transfuse pRBCs now, may need lasix in between units.
   #  R femoral intratrochanteric fracture, left superior and inferior
   pubic rami fractures, right sacral fractures.  Ortho following and
   planning to take to OR tomorrow.
   - Pain control with prn IV morphine and standing tylenol.
   - Scheduled for OR tomorrow.
   - Will hold heparin gtt after MN
   - [**Month (only) 51**] need FFP tomorrow AM prior to surgery.
   - [**Doctor First Name **] requesting 2 units of PRBCs now
   - [**Doctor First Name **] requesting lateral films of hip (when pain control improved).
   - Monitor for delerium post op (high risk)
   - Restart anticoagulation at therapeutic dosing post op when possible.
   - Monitor HCT serially throughout day (next following units of pRBCs).
   - Will discuss epidural catheter today with acute pain service.
   - Preoperative risk assessment:  Patient has no current major
   predictors of perioperative cardiovascular risk (no MI though has had
   troponin elevation in setting of acute PE; no decompensated heart
   failure, malignant arrhythmia, or severe valvular disease).  However,
   does need repeat ECG and troponins for trending to ensure not having
   acute MI.  Patient does have clinical factors that put her at increased
   surgical risk.  By the revised [**Doctor Last Name **] cardiac risk index, patient has
   two predictors of major cardiac complications - history of heart
   failure and history of cerebrovascular disease.  The estimated rate of
   cardiac death, nonfatal MI, and nonfatal cardiac arrest is therefore
   2.4%, which can be decreased to <2% with perioperative beta blockade.
   Of note, this does not take into consideration her recent PE (will be
   anticoagulated x 7 days at the time of surgery) and somewhat limited
   pulmonary reserve.  Further cardiac evaluation (stress testing, cardiac
   cath) is unlikely to alter management and thus should not be futher
   pursued.
   # Recent PE.  Now on day 6 of anticoagulation.
   - Continue heparin until MN, stop for surgery, then likely restart
   following
   - Consideration for intubation preop if needed.
   - Consideration for delayed extubation post op if respiratory status
   tenuous.
   # Diarrhea.  Recent admission for diarrhea/dehydration.  ?IBD related
   with good response to oral steroids.  Has been on 60 mg prednisone
   since [**5-21**] (four days).
   - Hold steroids now with acute fracture and need for OR; only on x 4
   days so should not need gradual taper.
   - Consideration of systemic steroids or nonabsorbed PO steroid regimen
   if diarrhea worsens.
   - Opium ticture, bismuth, loperamide okay.
   - Eventual outpatient colonoscopy as per plans at last discharge.
   # ECG changes.  Anterior TWI new since last ECG, but had had similar
   changes prior. Troponin 0.09, same as past value.
   - Cycle enzymes and serial ECG.
   - Trial of beta blocker last this evening.
   # Anemia.  Current Hct similar to discharge; however, at risk for acute
   blood loss anemia with fractures and therapeutic on heparin.
   - 2 units now.
   - serial hct throughout day.
   # Leukocytosis.  Acute stress from fracture, steroid usage, vs.
   infection.  UA negative, CXR without infiltrate.
   - C.diff if diarrhea.
   - Consider blood cx.
   - Repeat in AM.
   # Hypertension.  BPs in 100-110s here.  Concern for potential to have
   acute blood loss with fractures and heparin.
   - Hold antiHTNs for now.  Start BB.
   # Hypothryoidism.  Continue home dose.
   # Osteoporosis.  Intolerant of bisphos in past.  Continue vitamin D and
   calcium.
   ICU Care
   Nutrition: Has been NPO overnight
   Glycemic Control:  None needed at this time
   Lines:
   Midline - [**2132-5-25**] 10:16 AM
   18 Gauge - [**2132-5-25**] 10:40 AM
   Prophylaxis:
   DVT: Heparin drip
   Stress ulcer: PPI
   Communication:  [**First Name8 (NamePattern2) 1125**] [**Known lastname 6924**] [**Telephone/Fax (1) 6925**]
   Code status: Full code
   Disposition:  Patient is DNR/DNI; however, will be reversed for OR.  In
   addition, if patient has respiratory deterioration prior to OR, family
   is okay with intubation prior to surgery.  Following OR, will likely be
   DNR/DNI again.

2132-05-26 09:01:00 Physician Attending Progress Note
Chief Complaint: hip/pelvic fracture and hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 yo women with h/o osteoporosis, recent DVT/PE.  Admitted after fall
   and fractures to right hip fracture, pelvic, sacral fractures.  Pain
   control has been issue and limited by respiratory depression.  Is very
   anxious.  Has had refractory hypoxemia requiring MICU admit.  Hypoxemia
   has improved.
   24 Hour Events:
 MIDLINE - START [**2132-5-25**] 10:16 AM
 NASAL SWAB - At [**2132-5-25**] 10:30 AM
   MRSA screening
 EKG - At [**2132-5-25**] 04:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2132-5-25**] 05:50 PM
   Morphine Sulfate - [**2132-5-26**] 07:42 AM
   Other medications:
   LR boluses
   morphine
   levoxyl
   omeprazole
   vit d
   paxil
   lopressor
   opium tincture
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-5-26**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 77 (49 - 97) bpm
   BP: 173/76(98) {100/48(62) - 173/108(113)} mmHg
   RR: 11 (6 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,842 mL
                                                                     85 mL
   PO:
                                                                    120 mL
                  TF:
   IVF:
                                                                    972 mL
   Blood products:
                                                                    750 mL
                                                                     85 mL
   Total out:
                                                                    285 mL
                                                                    175 mL
   Urine:
                                                                    285 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,557 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   318 K/uL
   78 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.0 mEq/L
   19 mg/dL
   110 mEq/L
   139 mEq/L
   30.0 %
   16.0 K/uL
        [image002.jpg]
                             [**2132-5-25**]  04:40 PM
                             [**2132-5-25**]  11:53 PM
                             [**2132-5-26**]  05:24 AM
   WBC
   14.0
   16.0
   Hct
   31.5
   30.9
   30.0
   Plt
   303
   318
   Cr
   1.2
   1.0
   1.0
   TropT
   0.14
   0.17
   0.20
   Glucose
   107
   80
   78
   Other labs: PT / PTT / INR:21.2/33.4/2.0, CK / CKMB /
   Troponin-T:52//0.20, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Hypoxemia:  In setting of PE, may have had fat embolus.  Does have
   crackles on exam.  But oxygen overall improved.  Will give some lasix.
   Anemia:  Hct is stable, received unit yesterday presurgery.
   acute MI:  troponin elevation today.   Will discuss with ortho.  Given
   b-blocker this morning.  Will check with ortho about aspirin.
   Pain:  Potentially will get epidural PCA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2132-5-25**] 10:16 AM
   18 Gauge - [**2132-5-25**] 10:40 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2132-05-27 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Ortho placed IM nail in right femur with minimal estimated blood loss
   - Back to MICU post-op and was transfused 1 unit PRBC for HCT 25.6
   - Heparin drip was restarted post-op
   - Transfused 1 unit PRBC this morning indicated for HCT falling to 23.3
   Patient denied pain while sitting still this AM; however, reported
   significant pain with any movement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2132-5-26**] 09:14 AM
   Morphine Sulfate - [**2132-5-26**] 08:08 PM
   Flowsheet Data as of  [**2132-5-27**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.5
   HR: 63 (57 - 80) bpm
   BP: 118/50(65) {75/39(48) - 173/76(114)} mmHg
   RR: 10 (8 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
       Total In:
                                                                  2,221 mL
                                                                  1,183 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                    640 mL
                                                                  1,143 mL
   Blood products:
                                                                  1,461 mL
                                                                     40 mL
   Total out:
                                                                  1,592 mL
                                                                    280 mL
   Urine:
                                                                  1,592 mL
                                                                    280 mL
   Balance:
                                                                    629 mL
                                                                    903 mL
   Respiratory support
   O2 Delivery Device: 5L Nasal cannula alternating with face tent
   SpO2: 97%
   ABG: 7.44/39/130/25/2 @ 1700 on [**2132-5-26**]
   PaO2 / FiO2: 130
   Physical Examination
   GEN: NAD, patient appears calm
   HEENT: PERRL, EOMI, oral mucosa slightly dry
   NECK: Supple, NAD
   PULM: Bibasilar crackles
   CARD: RR, nl S1, nl S2
   ABD: BS+, soft, NT, ND
   EXT: Deferred due to pain
   NEURO: Oriented x 2, repeats questions
   Labs / Radiology
   197 K/uL
   8.3 g/dL
   78 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.1 mEq/L
   17 mg/dL
   109 mEq/L
   139 mEq/L
   23.3 %
   13.0 K/uL
        [image002.jpg]
                             [**2132-5-25**]  04:40 PM
                             [**2132-5-25**]  11:53 PM
                             [**2132-5-26**]  05:24 AM
                             [**2132-5-26**]  01:02 PM
                             [**2132-5-26**]  05:00 PM
                             [**2132-5-26**]  10:18 PM
                             [**2132-5-27**]  04:13 AM
   WBC
   14.0
   16.0
   13.3
   13.0
   Hct
   31.5
   30.9
   30.0
   25.6
   24.7
   27.4
   23.3
   Plt
   [**Telephone/Fax (3) 6951**]97
   Cr
   1.2
   1.0
   1.0
   1.0
   0.9
   TropT
   0.14
   0.17
   0.20
   0.20
   0.20
   TCO2
   27
   Glucose
   107
   80
   78
   78
   82
   78
   Other labs: PT / PTT / INR:20.7/37.8/1.9, CK / CKMB /
   Troponin-T:151/7/0.20, Lactic Acid:1.1 mmol/L, Albumin:2.6 g/dL,
   Ca++:7.8 mg/dL, Mg++:3.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   86 yo F with HTN, osteoporosis, recent DVT/PE (diagnosed 6 days ago),
   admit with multiple fractures following fall at rehab with increased
   oxygen requirement.
   #  Hypoxia:
   Patient has known recent acute PE, discharged on 2 L NC.  Reason for
   acute worsening unclear - differential includes worsening pulmonary
   clot burden (thrombotic or fat embolus; IVC filter in place and
   therapeutic on heparin); volume overload (possible given clinical
   appearance); infection (no pneumonia on current film), ACS (mild
   elevation in troponins following admission, but now stable),
   hypoventilation from pain or narcotics. Despite troponin elevation to
   0.20, ACS likely not sole cause of hypoxia. Patient with RR to 8 or
   less with narcotics.
   - Consider ongoing furosemide to attempt to reduce dependence on
   supplemental oxygen
   - NC as needed for oxygenation
   - Minimize narcotics if at all possible
   - ABG prn, may have respiratory acidosis as well if hypoventilating
   - Consideration on intubation pre-op if worsening (patient DNR/DNI in
   past, but family okay with intubation if respiratory decompensation
   prior to OR).
   - Heparin anticoagulation
   #  R femoral intratrochanteric fracture, left superior and inferior
   pubic rami fractures, right sacral fractures:
   Ortho following and planning to take to OR today. Heparin drip has been
   on hold. Is receiving FFP prior to surgery. Had two units of PRBC as
   requested by orthopedic surgery yesterday. Pain consult service will
   help to manage with epidural catheter.
   - Surgery today
   - Pain control with prn IV morphine and standing tylenol
   - Monitor for delerium post op (high risk)
   - Restart anticoagulation at therapeutic dosing post op when possible.
   # Anemia:
   Current HCT had appropriate rise from 23.3 to 27.3 following one unit
   PRBC transfusion this AM.
   - Every six hour HCTs today
   # Recent PE:
   Patient has large L common femoral vein DVT had IVC filter placed on
   [**2132-5-22**] and was anti-coagulated following. Anticoagulation has been
   restarted.
   - Continue heparin drip for now and consider restarting warfarin if HCT
   stable in next day.
   # Diarrhea:
   Recent admission for diarrhea/dehydration. ?IBD related with good
   response to oral steroids.  Has been on 60 mg prednisone since [**5-21**]
   (four days). This was stopped in peri-operative setting. Currently has
   no diarrhea. Some concern that patient hasn
t had BM recently in
   setting of systemic opiates.
   - Discontinue opium tincture
   - Continue bismuth, loperamide
   - Eventual outpatient colonoscopy as per plans at last discharge.
   # ECG changes.
   Anterior TWI new since last ECG, but had had similar changes prior.
   Troponin initially 0.09; however, climbed up to 0.20 day after
   admission. Remained stable.
   - Continue to monitor via telemetry
   # Leukocytosis:
   Has been afebrile. Acute stress from fracture, steroid usage, vs.
   infection.  UA negative, CXR without infiltrate.
   - Continue to trend
   # Hypertension:
   BPs in 100-160s here and has been stable
   # Hypothryoidism
   - Continue home dose levothyroxine
   # Osteoporosis:
   Intolerant of bisphos in past.
   - Continue vitamin D and calcium.
   ICU Care
   Nutrition: [**Month (only) 51**] have regular diet
   Glycemic Control:  None needed at this time
   Lines:
   Midline - [**2132-5-25**] 10:16 AM
   18 Gauge - [**2132-5-25**] 10:40 AM
   Prophylaxis:
   DVT: Heparin drip
   Stress ulcer: PPI
   Communication:  [**First Name8 (NamePattern2) 1125**] [**Known lastname 6924**] [**Telephone/Fax (1) 6925**]
   Code status: Patient was DNR/DNI prior to surgery, will need to
   readdress code status with patient
s daughter now that patient is
   post-op.
   Disposition:  ICU ongoing care while acute transfusion needs
   ------ Protected Section ------
   Please disregard hip fracture section of Assessment and Plan. Note did
   not save properly. Patient is POD#1 and heparin has been restarted.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 6761**], MD
   on:[**2132-5-28**] 08:45 ------

2132-05-27 12:35:00 Physician Attending Progress Note
Chief Complaint: hip fracture, hypoxemia, recent DVT/PE
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    86 yo women sacral, right hip, and pubic ramus fractures.  Got repair
   of hip yesterday.  Started back on heparin post-op.
   24 Hour Events:
 OR SENT - At [**2132-5-26**] 04:22 PM
 ARTERIAL LINE - START [**2132-5-26**] 07:06 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2132-5-26**] 08:08 PM
   Other medications:
   pepto-bismol
   CaCO3
   levoxyl
   prilosec
   paxil
   loperamid
   vitamin D
   tylenol
   lopressor
   opium tincture
   ASA
   simvastatin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Flowsheet Data as of  [**2132-5-27**] 12:35 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.3
   HR: 65 (57 - 80) bpm
   BP: 112/48(72) {75/39(48) - 149/67(114)} mmHg
   RR: 15 (9 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  2,221 mL
                                                                  1,586 mL
   PO:
                                                                    120 mL
           TF:
   IVF:
                                                                    640 mL
                                                                  1,176 mL
   Blood products:
                                                                  1,461 mL
                                                                    350 mL
   Total out:
                                                                  1,592 mL
                                                                    580 mL
   Urine:
                                                                  1,592 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    629 mL
                                                                  1,006 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.44/39/130/25/2
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, poor short term
   memory
   Labs / Radiology
   8.3 g/dL
   197 K/uL
   78 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.1 mEq/L
   17 mg/dL
   109 mEq/L
   139 mEq/L
   27.3 %
   13.0 K/uL
        [image002.jpg]
                             [**2132-5-25**]  04:40 PM
                             [**2132-5-25**]  11:53 PM
                             [**2132-5-26**]  05:24 AM
                             [**2132-5-26**]  01:02 PM
                             [**2132-5-26**]  05:00 PM
                             [**2132-5-26**]  10:18 PM
                             [**2132-5-27**]  04:13 AM
                             [**2132-5-27**]  11:01 AM
   WBC
   14.0
   16.0
   13.3
   13.0
   Hct
   31.5
   30.9
   30.0
   25.6
   24.7
   27.4
   23.3
   27.3
   Plt
   [**Telephone/Fax (3) 6951**]97
   Cr
   1.2
   1.0
   1.0
   1.0
   0.9
   TropT
   0.14
   0.17
   0.20
   0.20
   0.20
   TCO2
   27
   Glucose
   107
   80
   78
   78
   82
   78
   Other labs: PT / PTT / INR:22.8/64.6/2.2, CK / CKMB /
   Troponin-T:151/7/0.20, Lactic Acid:1.1 mmol/L, Albumin:2.6 g/dL,
   Ca++:7.8 mg/dL, Mg++:3.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Respiratory distress/hypoxemia: Improved, might still be fluid
   overloaded, so will redose lasix
   Pain control:  Place on standing oxycodone with morphine for
   breakthrough
   Hip fracture:  PT/OT consult
   PE:  continue heparin drip
   Diarrhea:  chronic, on opiate tincture
   start PO diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2132-5-25**] 10:16 AM
   Arterial Line - [**2132-5-26**] 07:06 PM
   22 Gauge - [**2132-5-27**] 10:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient with melena.     Will check stat Hct and consider stopping
   heparin given that she already has a filter.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2132-5-27**] 15:34 ------

2132-05-28 07:09:00 Physician Resident Progress Note
Chief Complaint: Right hip fracture, hypoxia
   24 Hour Events:
   - Melanic stools 3 PM on [**5-27**], PTT 120/HCT stable 29, hep gtt decreased
   - HCT stable during day; however, dropped slightly to 26 at 2200 and
   was transfused another unit of PRBCs with AM HCT of 28.7
   - PT consult placed
   - Started standing tylenol every six hours, oxycodone 2.5mg every six
   hours
   - Melanic stool early AM on [**5-28**]
   Review of systems:
   Patient reports feeling poorly; however, feels this is due to
   restlessness and denies pain currently. She denies nausea or vomiting.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 400 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2132-5-27**] 01:50 PM
   Morphine Sulfate - [**2132-5-28**] 06:21 AM
   Flowsheet Data as of  [**2132-5-28**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 69 (61 - 84) bpm
   BP: 134/62(79) {99/40(57) - 140/79(83)} mmHg
   RR: 13 (11 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
       Total In:
                                                                  2,032 mL
                                                                    378 mL
   PO:
                                                                    150 mL
   TF:
   IVF:
                                                                  1,412 mL
                                                                     28 mL
   Blood products:
                                                                    350 mL
                                                                    350 mL
   Total out:
                                                                  1,585 mL
                                                                    165 mL
   Urine:
                                                                  1,585 mL
                                                                    165 mL
   Balance:
                                                                    447 mL
                                                                    213 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula (4L)
   SpO2: 95%
   Physical Examination
   GEN: NAD, patient appears calm
   HEENT: PERRL, EOMI, oral mucosa slightly dry
   NECK: Supple, NAD
   PULM: Bibasilar crackles
   CARD: RR, nl S1, nl S2, II/VI sys murmur
   ABD: BS+, soft, NT, ND
   EXT: Deferred due to pain, 2+ bilateral pitting edema of lower
   extremities
   NEURO: Oriented x 2, repeats questions
   Labs / Radiology
   184 K/uL
   9.8 g/dL
   79 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   16 mg/dL
   109 mEq/L
   141 mEq/L
   28.7 %
   12.2 K/uL
        [image002.jpg]
                             [**2132-5-25**]  11:53 PM
                             [**2132-5-26**]  05:24 AM
                             [**2132-5-26**]  01:02 PM
                             [**2132-5-26**]  05:00 PM
                             [**2132-5-26**]  10:18 PM
                             [**2132-5-27**]  04:13 AM
                             [**2132-5-27**]  11:01 AM
                             [**2132-5-27**]  03:07 PM
                             [**2132-5-27**]  10:51 PM
                             [**2132-5-28**]  05:33 AM
   WBC
   14.0
   16.0
   13.3
   13.0
   12.2
   Hct
   30.9
   30.0
   25.6
   24.7
   27.4
   23.3
   27.3
   29.4
   26.2
   28.7
   Plt
   [**Telephone/Fax (3) 6951**]97
   184
   Cr
   1.0
   1.0
   1.0
   0.9
   0.8
   TropT
   0.17
   0.20
   0.20
   0.20
   0.12
   TCO2
   27
   Glucose
   80
   78
   78
   82
   78
   79
   Other labs: PT / PTT / INR:22.3/78.1/2.1, CK / CKMB /
   Troponin-T:162/4/0.12, Lactic Acid:1.1 mmol/L, Albumin:2.6 g/dL,
   Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   86 yo F with HTN, osteoporosis, recent DVT/PE (diagnosed 6 days ago),
   admit with multiple fractures following fall at rehab with increased
   oxygen requirement.
   #  Hypoxia:
   Patient has known recent acute PE, recently discharged on 2 L NC.
   Reason for acute worsening is overall unclear; however, despite
   troponin elevation to 0.20, ACS likely not sole cause of hypoxia.
   Multiple fractures may have been responsible for fat emboli. Narcotic
   hypoventilation a possibility as patient did not have worsening hypoxia
   until presentation to the ED (in which she received narcotics) and has
   RR to 8 or less with narcotics. Likely some component of pulmonary
   edema, which has been exacerbated by blood transfusions in last 3 days.
   - Consider ongoing furosemide to attempt to reduce dependence on
   supplemental oxygen
   - NC as needed for oxygenation
   - Minimize narcotics if at all possible
   - Heparin anticoagulation as tolerated by post-operative status
   #  R femoral intratrochanteric fracture, left superior and inferior
   pubic rami fractures, right sacral fractures:
   POD#2 s/p IM nail to right femur. Orthopaedics have reported that there
   is no weight bearing restriction on patient at this time. Pain control
   has been
   - Standing Tylenol every six hours
   - Oxycodone 5 mg PO every 6 hours as needed
   - Continue morphine IV as needed for more immediate pain relief with
   hope that oral regimen will supplant this need
   - PT consult
   # Anemia:
   Patient needed one unit PRBC yesterday indicated for falling HCT. Had
   melanic stools x 2.
   - Stop heparin drip until resolution of melanic stools
   - Continue to guaiac stools
   - Every six hour HCTs today
   - Transfuse for HCT rapid change or < 21
   # Recent PE:
   Patient has large L common femoral vein DVT had IVC filter placed on
   [**2132-5-22**] and was anti-coagulated following. Anticoagulation was stopped
   peri-operatively and restarted following surgery; however, patient has
   new melanic stools in last two days.
   - Stop heparin drip due to melanic stools
   - Initiate heparin subcutaneous
   # Diarrhea:
   Recent admission for diarrhea/dehydration. ?IBD related with good
   response to oral steroids.  Had been on 60 mg prednisone since [**5-21**]
   (four days). This was stopped in peri-operative setting due to concern
   for impaired wound healing. Currently has no diarrhea, though several
   melanic stools.
   - Continue to hold opium tincture and steroids
   - Continue bismuth, loperamide
   - Contact Dr. [**First Name (STitle) 2578**] regarding diarrhea at this time
   - Eventual outpatient colonoscopy as per plans at last discharge
   # ECG changes.
   Anterior TWI new since last ECG, but had had similar changes prior.
   Troponin initially 0.09; however, climbed up to 0.20 day after
   admission. Remained stable.
   - Continue to monitor via telemetry
   # Leukocytosis:
   Has been afebrile. Acute stress from fracture, steroid usage, vs.
   infection.  UA negative, CXR without infiltrate.
   - Continue to trend
   # Hypertension:
   BPs in 100-160s here and has been stable
   # Hypothryoidism
   - Continue home dose levothyroxine
   # Osteoporosis:
   Intolerant of bisphos in past.
   - Continue vitamin D and calcium.
   ICU Care
   Nutrition: [**Month (only) 51**] have regular dysphagia diet, lactose free
   Glycemic Control:  None needed at this time
   Lines:
   Midline - [**2132-5-25**] 10:16 AM
   18 Gauge - [**2132-5-25**] 10:40 AM
   Prophylaxis:
   DVT: Heparin drip
   Stress ulcer: PPI
   Communication:  [**First Name8 (NamePattern2) 1125**] [**Known lastname 6924**] [**Telephone/Fax (1) 6925**]
   Code status: Patient was DNR/DNI prior to surgery, will need to
   readdress code status with patient
s daughter now that patient is
   post-op.
   Disposition: Call-out to floor this AM if HCT remains stable

2132-05-28 12:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 yo women with osteoporosi, PE, hip and pelvic fractures after fall.
   Post-op hip replacement.  had episode of melena yesterday and one this
   AM, Hct has been stable.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 400 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2132-5-27**] 01:50 PM
   Morphine Sulfate - [**2132-5-28**] 06:21 AM
   Other medications:
   pepto-bismol
   CaCO
   synthroid
   prilosec
   lopreamide
   paxil
   lopressor
   vit D
   ASA
   simvastatin
   tylenol
   oxycodone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: No(t) Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2132-5-28**] 12:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 67 (61 - 84) bpm
   BP: 115/53(67) {99/40(57) - 157/79(85)} mmHg
   RR: 19 (11 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  2,032 mL
                                                                    398 mL
   PO:
                                                                    150 mL
           TF:
   IVF:
                                                                  1,412 mL
                                                                     48 mL
   Blood products:
                                                                    350 mL
                                                                    350 mL
   Total out:
                                                                  1,585 mL
                                                                    365 mL
   Urine:
                                                                  1,585 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    447 mL
                                                                     33 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   184 K/uL
   79 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   16 mg/dL
   109 mEq/L
   141 mEq/L
   28.7 %
   12.2 K/uL
        [image002.jpg]
                             [**2132-5-25**]  11:53 PM
                             [**2132-5-26**]  05:24 AM
                             [**2132-5-26**]  01:02 PM
                             [**2132-5-26**]  05:00 PM
                             [**2132-5-26**]  10:18 PM
                             [**2132-5-27**]  04:13 AM
                             [**2132-5-27**]  11:01 AM
                             [**2132-5-27**]  03:07 PM
                             [**2132-5-27**]  10:51 PM
                             [**2132-5-28**]  05:33 AM
   WBC
   14.0
   16.0
   13.3
   13.0
   12.2
   Hct
   30.9
   30.0
   25.6
   24.7
   27.4
   23.3
   27.3
   29.4
   26.2
   28.7
   Plt
   [**Telephone/Fax (3) 6951**]97
   184
   Cr
   1.0
   1.0
   1.0
   0.9
   0.8
   TropT
   0.17
   0.20
   0.20
   0.20
   0.12
   TCO2
   27
   Glucose
   80
   78
   78
   82
   78
   79
   Other labs: PT / PTT / INR:22.3/78.1/2.1, CK / CKMB /
   Troponin-T:162/4/0.12, Lactic Acid:1.1 mmol/L, Albumin:2.6 g/dL,
   Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Melena/GIB:  will hold heparin given melena and need for transfusion.
   Given that she has an IVC filter low risk for this.
   Pain control:  Increase oxycodone dose
   pulmonary edema:  CXR with increased edema, will give a dose of lasix
   hip fracture:  moblize as tolerated
   diarrhea:  has only had [**Hospital1 7**] BMs.  off steroids
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2132-5-25**] 10:16 AM
   Arterial Line - [**2132-5-26**] 07:06 PM
   22 Gauge - [**2132-5-27**] 10:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes